Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
decreased fetal movement
 
Major Surgical or Invasive Procedure:
primary low transverse c-section, blood transfusion

 
History of Present Illness:
___ yo G2P0 at 37w4d with persistent decreased fetal movement
of twin B, also with BPP in the office of twin A ___ for
breathing and tone. Twin B BPP was ___.

Denies VB, LOF. +FMx2 but diminished in B.

 
Past Medical History:
PNC: 
- ___ ___ by IVF dating
- Labs Rh +/Abs neg/Rub I/RPR NR/HBsAg POS/HIV neg/GBS neg
- Screening LR ERA, s/p genetics consult
- FFS normal x2
- GTT GDMA1
- U/S ___ EFW A 2890g 64%ile, B 2781g 57%ile, 3.8% discordance
- Issues
*) HBV - last VL ___ 1.7m
*) IVF - normal growth
*) AMA - s/p genetics, LR ERA  
*) GDMA1 - diet-controlled, normal growth

OBHx:
- G1 ectopic s/p bilateral salpingectomy in ___
- G2 current, via IVF
 
GynHx:
- denies abnormal Pap, fibroids, STIs
- s/p bilateral salpingectomy in ___
 
PMH: 
- HBV
 
PSH: 
- laparoscopic bilateral salpingectomy

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Physical Exam on Discharge: 
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Lungs: breathing comfortably on room air
Abdomen: soft, appropriately tender, fundus firm, incision c/d/i
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 

 
Pertinent Results:
___ 03:30PM BLOOD WBC-13.4* RBC-3.04* Hgb-10.2* Hct-29.2* 
MCV-96 MCH-33.6* MCHC-34.9 RDW-16.6* RDWSD-58.4* Plt ___
___ 12:04PM BLOOD WBC-17.5* RBC-2.62* Hgb-8.9* Hct-24.5* 
MCV-94 MCH-34.0* MCHC-36.3 RDW-18.2* RDWSD-61.4* Plt Ct-82*
___ 05:52AM BLOOD WBC-16.5* RBC-2.55* Hgb-8.6* Hct-24.2* 
MCV-95 MCH-33.7* MCHC-35.5 RDW-18.6* RDWSD-63.6* Plt Ct-85*
___ 12:03AM BLOOD WBC-17.3* RBC-2.59* Hgb-8.6* Hct-24.2* 
MCV-93# MCH-33.2* MCHC-35.5 RDW-18.6* RDWSD-63.1* Plt Ct-83*
___ 02:25PM BLOOD WBC-16.9* RBC-2.17* Hgb-7.6* Hct-21.7* 
MCV-100* MCH-35.0* MCHC-35.0 RDW-13.8 RDWSD-50.7* Plt Ct-72*
___ 06:23AM BLOOD WBC-17.5* RBC-2.11* Hgb-7.5* Hct-21.4* 
MCV-101* MCH-35.5* MCHC-35.0 RDW-12.4 RDWSD-45.3 Plt Ct-64*
___ 02:00AM BLOOD WBC-17.8* RBC-2.05* Hgb-7.3* Hct-20.9* 
MCV-102* MCH-35.6* MCHC-34.9 RDW-12.2 RDWSD-45.8 Plt Ct-64*
___ 10:19PM BLOOD WBC-18.2* RBC-2.33* Hgb-8.2* Hct-23.6* 
MCV-101* MCH-35.2* MCHC-34.7 RDW-12.2 RDWSD-45.1 Plt Ct-64*
___ 04:10PM BLOOD WBC-16.7* RBC-2.61* Hgb-9.3* Hct-26.7* 
MCV-102* MCH-35.6* MCHC-34.8 RDW-12.2 RDWSD-45.2 Plt Ct-82*
___ 11:15AM BLOOD WBC-19.5* RBC-3.43* Hgb-12.3 Hct-34.9 
MCV-102* MCH-35.9* MCHC-35.2 RDW-12.0 RDWSD-45.0 Plt ___
___ 05:42AM BLOOD WBC-18.4*# RBC-3.32* Hgb-11.7 Hct-33.7* 
MCV-102* MCH-35.2* MCHC-34.7 RDW-12.0 RDWSD-44.6 Plt ___
___ 07:16PM BLOOD WBC-6.8 RBC-3.43* Hgb-12.3 Hct-34.5 
MCV-101* MCH-35.9*# MCHC-35.7 RDW-12.1 RDWSD-44.7 Plt ___
___ 05:52AM BLOOD ___ PTT-37.1* ___
___ 02:25PM BLOOD ___ PTT-40.3* ___
___ 06:23AM BLOOD ___ PTT-42.3* ___
___ 02:00AM BLOOD ___ PTT-42.6* ___
___ 11:15AM BLOOD ___ PTT-31.8 ___
___ 12:04PM BLOOD Glucose-87 UreaN-21* Creat-1.1 Na-135 
K-4.3 Cl-103 HCO3-22 AnGap-14
___ 03:30PM BLOOD Creat-0.9
___ 05:52AM BLOOD UreaN-22* Creat-1.2*
___ 12:03AM BLOOD UreaN-22* Creat-1.3*
___ 02:25PM BLOOD UreaN-22* Creat-1.6*
___ 02:25PM BLOOD UreaN-22* Creat-1.6*
___ 06:23AM BLOOD Creat-1.7*
___ 02:00AM BLOOD Creat-1.8* K-4.2
___ 10:19PM BLOOD Creat-1.8*
___ 10:19PM BLOOD Creat-1.8*
___ 04:10PM BLOOD Glucose-91 UreaN-18 Creat-1.7* Na-137 
K-4.4 Cl-107 HCO3-17* AnGap-17
___ 11:15AM BLOOD Creat-1.7*
___ 05:42AM BLOOD Glucose-83 Creat-1.5*
___ 03:30PM BLOOD ALT-22 AST-38
___ 12:04PM BLOOD ALT-18 AST-37
___ 05:52AM BLOOD ALT-18 AST-40
___ 12:03AM BLOOD ALT-18 AST-41*
___ 02:25PM BLOOD ALT-16 AST-40 LD(___)-348*
___ 06:23AM BLOOD ALT-17 AST-42*
___ 02:00AM BLOOD ALT-16 AST-39 LD(___)-355*
___ 10:19PM BLOOD ALT-17 AST-42*
___ 04:10PM BLOOD ALT-17 AST-34
___ 11:15AM BLOOD ALT-20 AST-33
___ 05:42AM BLOOD ALT-18 AST-27
___ 12:04PM BLOOD Calcium-7.5* Phos-3.5 Mg-1.8
___ 04:10PM BLOOD Calcium-7.5* Phos-4.1 Mg-1.7
___ 11:15AM BLOOD UricAcd-8.6*
___ 05:42AM BLOOD UricAcd-8.3*
___ 02:25PM BLOOD Hapto-63
___ 02:00AM BLOOD Hapto-47
 
Brief Hospital Course:
Ms. ___ is a ___ s/p pLTCS (___) for arrest of 
dilation, complicated by chorioamnionitis and severe 
pre-eclampsia.
Her hospital course is as follows:
*) Pre-eclampsia: severe by ___ and pulmonary edema
Ms. ___ was not given magnesium, due to pulmonary edema.  Chest 
XR on ___ showed increased heart size with mild pulmonary 
vascular congestion, left pleural effusion, adjacent basilar 
consolidation, likely atelectasis."  She was weaned from 
supplemental oxygen, and her creatinine was trended and improved 
from 1.8 -> 0.9 (___).  
*) Chorioamnionitis
Ms. ___ received ampicillin, gentamicin, and clindamycin from 
___, and unasyn ___.  She was afebrile at the time of 
discharge.
*) Acute blood loss anemia
Estimated blood loss from delivery was 1000 cc's.  She received 
2 units pRBCs ___, and her hematocrit stabilized at 29.2.
Her post partum course was otherwise uncomplicated.
By postpartum day 5, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. She was 
then discharged home in stable condition with postpartum 
outpatient follow-up scheduled.
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 1 
tablet(s) by mouth every six (6) hours Disp #*40 Tablet 
Refills:*0 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*40 Capsule Refills:*1 
3.  Ferrous Sulfate 325 mg PO BID 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
twice a day Disp #*60 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) to six 
(6) hours Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-primary low transverse c-section for ___ stage arrest
-chorio: s/p A/G/C --> Unasyn, Abx stopped ___ after afebrile 
x 48 hrs. Ucx, Bcx pending
-Acute kidney injury: Cr max of 1.8 , now normal
-PPH/Coagulapathy: EBL 1000cc (s/p 2 units pRBCs)
-Prepreeclampsia (severe due to ___ and pulmonary edema):  defer 
magnesium given pulmonary edema and ___. 
-GDM diet: 2hr oGTT at 6wks PP
-chronic hep B: asx, no meds

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
Do not drive while taking Oxycodone
Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
Please call the ___ or Emergency Line if you 
develop shortness of breath, dizziness, palpitations, fever of 
100.4 or above, abdominal pain, increased redness or drainage 
from your incision, nausea/vomiting, heavy vaginal bleeding, or 
any other concerns.

 
Followup Instructions:
___